US07253158B2
4-Chloro-N-(2-oxo-azepan-3-yl)-benzenesulfonamide (0.45 g, 1.50 mmol), 1-bromomethyl-4-difluoromethyl-benzene (0.66 g, 3.00 mmol), potassium carbonate (2.09 g, 15.0 mmol) and potassium iodide (0.05 g, 0.20 mmol) in 15 ml dimethylformamide were stirred at 65° C. for 5 hours. Extraction with water/ethylacetate and chromatography on silicagel with ethylacetate/heptane (90/10 to 1/0) yielded 0.63 g (94%) 4-chloro-N-(4-difluoromethyl-benzyl)-N-(2-oxo-azepan-3-yl)-benzenesulfonamide as white solid, MS: m/e (%)=443.0 (MH+, 100).

reactant | 4-Chloro-N-(2-oxo-azepan-3-yl)-benzenesulfonamide | 1.50 mmol, 0.45 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1C(NCCCC1)=O | C12H15ClN2O3S
reactant | 1-bromomethyl-4-difluoromethyl-benzene | 3.00 mmol, 0.66 g | BrCC1=CC=C(C=C1)C(F)F | C8H7BrF2
reactant | potassium carbonate | 15.0 mmol, 2.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.20 mmol, 0.05 g | [I-].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-chloro-N-(4-difluoromethyl-benzyl)-N-(2-oxo-azepan-3-yl)-benzenesulfonamide | 0.63 g, 94% | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C=C1)C(F)F | C20H21ClF2N2O3S
